US09035058B2
Synthesis of 1,1′-(butane-1,4-diyl)bis(1-methylpiperidin-1-ium) hydroxide
1,1′-(butane-1,4-diyl)bis(1-methylpiperidin-1-ium) bromide was subsequently converted to a hydroxide solution by column ion-exchange using an excess of MTO-DOWEX SBR LCNG(OH) resin. Distilled water was eluted through the column until the pH was less than 11 and the resulting solution concentrated to the desired concentration, typically ˜20 wt %. The concentration was confirmed by acid-base titration and by 1H NMR.

reactant | 1,1′-(butane-1,4-diyl)bis(1-methylpiperidin-1-ium) bromide | [Br-].C(CCC[N+]1(CCCCC1)C)[N+]1(CCCCC1)C.[Br-]
reactant | hydroxide | [OH-]
product | 1,1′-(butane-1,4-diyl)bis(1-methylpiperidin-1-ium) hydroxide | [OH-].C(CCC[N+]1(CCCCC1)C)[N+]1(CCCCC1)C.[OH-] | InChI=1S/C16H34N2.2H2O/c1-17(11-5-3-6-12-17)15-9-10-16-18(2)13-7-4-8-14-18;;/h3-16H2,1-2H3;2*1H2/q+2;;/p-2
